US06638929B2
A mixture of 0.12 g (0.52 mmol) of 8-chloroimidazo[4,5-g]quinoline-7-carbonitrile, 0.2 g (0.63 mmol) of 2-bromo-4-chloro-5-methoxyaniline hydrobromide and 0.06 g (0.52 mmol) of pyridine hydrochloride in 5.0 mL of 2-ethoxyethanol is heated at reflux temperature for 1 hour, cooled to room temperature, poured into a saturated solution of sodium bicarbonate and stirred for 0.5 hour. The solid is collected by filtration, washed with water and dried. The solid is purified by silica gel chromatography utilizing a gradient of methylene chloride/methanol(97:3 to 90:10) to yield 0.1 g of 8-(2-bromo-4-chloro-5-methoxy-phenylamino)imidazo[4,5-g]quinoline-7-carbonitrile as a yellow solid, mp 257° C. (dec).

reactant | 8-chloroimidazo[4,5-g]quinoline-7-carbonitrile | 0.52 mmol, 0.12 g | ClC1=C(C=NC=2CC=3C(=CC12)N=CN3)C#N | C11H5ClN4
reactant | 2-bromo-4-chloro-5-methoxyaniline hydrobromide | 0.63 mmol, 0.2 g | Br.BrC1=C(N)C=C(C(=C1)Cl)OC
reactant | pyridine hydrochloride | 0.52 mmol, 0.06 g | Cl.N1=CC=CC=C1
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 2-ethoxyethanol | 5.0 mL | C(C)OCCO | C4H10O2
product | 8-(2-bromo-4-chloro-5-methoxy-phenylamino)imidazo[4,5-g]quinoline-7-carbonitrile | 0.1 g | BrC1=C(C=C(C(=C1)Cl)OC)NC1=C(C=NC=2CC=3C(=CC12)N=CN3)C#N | C18H11BrClN5O
